US04532240
6-Methyl-5-[4-(phenylmethyl)-1-piperazinyl]-2,4(1H,3H)-pyrimidinedione
A mixture of 20.5 g (0.10 mole) of 5-bromo-6-methyl-2,4(1H,3H)pyrimidinedione and 10.3 g (0.11 mole) of potassium fluoride dihydrate in 130 ml of 1-benzylpiperazine was heated under reflux for 72 hours. The reaction mixture was then cooled and poured into 800 ml of ice water. The solid which formed was collected and washed with water to give 8.10 g of the product as an off-white solid. A 1.0 g portion of the crude product was recrystallized from methanol to give an off-white solid, mp 263° C.

reactant | 5-bromo-6-methyl-2,4(1H,3H)pyrimidinedione | 0.10 mole, 20.5 g | BrC=1C(NC(NC1C)=O)=O | C5H5BrN2O2
reactant | potassium fluoride dihydrate | 0.11 mole, 10.3 g | O.O.[F-].[K+]
reactant | 1-benzylpiperazine | 130 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 6-Methyl-5-[4-(phenylmethyl)-1-piperazinyl]-2,4(1H,3H)-pyrimidinedione | 8.10 g | CC1=C(C(NC(N1)=O)=O)N1CCN(CC1)CC1=CC=CC=C1 | C16H20N4O2
